US08609644B2
6α-Carboxyandrostane-3,17-dione (II-aq)
To a stirred suspension of 6α-formylandrostane-3,17-dione (1.77 g) in t-ButOH (35 mL) and 5% aqueous Na2HPO4 solution (21.5 mL), 1N aqueous KMnO4 (35 mL) was added. After 5 minutes at room temperature, the mixture was quenched by addition of 40% aqueous NaHSO3 solution. The suspension was filtered, washed with H2O and the filtrate was freeze-dried. The residue was taken up with H2O (50 mL) and extracted with EtOAc (4×70 mL). The combined organic extracts were dried over Na2SO4 and evaporated to dryness to give the title compound II-aq (1.80 g, 96%). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 11.99 (bb, 1H), 2.46-0.73 (m, 21H), 1.01 (s, 3H), 0.79 (s, 3H).

reactant | 6α-formylandrostane-3,17-dione | 1.77 g | C(=O)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H28O3
reactant | KMnO4 | 1N, 35 mL | [O-][Mn](=O)(=O)=O.[K+]
product | 6α-Carboxyandrostane-3,17-dione | C(=O)(O)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H28O4
